US06441017B1
Step D: (R)-1-(3-Benzyloxyphenylsulfonyl)-3-(tert-butoxycarbonylamino) pyrrolidine
To a stirred solution of 3-benzyloxyphenylsulfonyl chloride, as described above in Step C, (1.8 g, 7.2 mmol) in CH2Cl2 (50 mL) was added N,N-diisopropylethylamine (1.8 mL, 10.3 mmol) followed by (R)-3-(tert-butoxycarbonylamino)pyrrolidine (1.77 g, 9.5 mmol) and the reaction mixture was stirred at ambient temperature for 4 hours. The mixture was washed with 10% aqueous citric acid (75 mL), then water (50 mL), then saturated aqueous NaHCO3 (50 mL). The organic layer was dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified by flash column chromatography on silica, eluting with hexane—20% EtOAc to yield the desired product as a white solid.

reactant | 3-benzyloxyphenylsulfonyl chloride | C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)(=O)Cl | C13H11ClO3S
reactant | N,N-diisopropylethylamine | 10.3 mmol, 1.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (R)-3-(tert-butoxycarbonylamino)pyrrolidine | 9.5 mmol, 1.77 g | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | (R)-1-(3-Benzyloxyphenylsulfonyl)-3-(tert-butoxycarbonylamino) pyrrolidine | C(C1=CC=CC=C1)OC=1C=C(C=CC1)S(=O)(=O)N1C[C@@H](CC1)NC(=O)OC(C)(C)C | C22H28N2O5S
